US04492692
A solution of 2-fluoro-4-(3-hydroxypropyl)-1-triphenylmethylimidazole in pyridine was treated with methanesulphonyl chloride. Work-up as for the starting material of Example 9 gave 2-fluoro-4-(3-methanesulphonyloxypropyl)-1-triphenylmethylimidazole, having the following n.m.r. spectrum in CDCl3 : 2.03 (m, 2H); 2.52 (t, 2H); 2.94 (s, 3H); 4.21 (t, 2H); 6.27 (s, 1H); 7.0-7.5 (m, 15H).

reactant | 2-fluoro-4-(3-hydroxypropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23FN2O
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-4-(3-methanesulphonyloxypropyl)-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCOS(=O)(=O)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25FN2O3S
